US05506256
B) N-Octanoyl-L-proline
To a solution of N-octanoyl-L-proline benzyl ester (7.04 g) in 1% water-containing methanol (70 ml) was added 10% Pd-C (0.71 g), and the mixutre was stirred under hydrogen atmosphere at room temperature for 1.5 hours. After the catalyst was filtered off, the filtrate was concentrated to give 5.08 g of the title compound.

reactant | N-octanoyl-L-proline benzyl ester | 7.04 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CCCCCCC)=O)=O | C20H29NO3
reactant | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
catalyst | Pd-C | 0.71 g | [Pd] | Pd
product | N-Octanoyl-L-proline | 5.08 g | C(CCCCCCC)(=O)N1[C@H](C(=O)O)CCC1 | C13H23NO3
